US04803200
β-[(2-Hydroxy-1-methylethyl)amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (3.93 g, 0.020 mole) and 2-amino-1-propanol (4.51 g, 0.060 mole) was heated on a steam bath for 18 hours. The reaction mixture was dissolved in methanol (20 ml) and the solution poured into water (200 ml). The viscous oil which separated from the solution crystallized on standing. The solid was collected to obtain 4.29 g (79%) of material which was recrystallized from toluene to give 3.36 g of a white solid. The solid was dried in vacuo for 2 hours, m.p. 104°-105° C.

reactant | trans-stilbene oxide | 0.020 mole, 3.93 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 2-amino-1-propanol | 0.060 mole, 4.51 g | NC(CO)C | C3H9NO
reactant | water | 200 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | β-[(2-Hydroxy-1-methylethyl)amino]-α-phenylbenzeneethanol | 4.29 g, 79% | OCC(C)NC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C17H21NO2
